US07192968B2
1-(tert-Butoxycarbonyl)-4-(methoxycarbonylethynyl)-piperidine
n-Butyllithium (1.57N hexane solution, 3.11 ml) was added dropwise to a solution with 1-(tert-butoxycarbonyl)-4-(2,2-dibromovinyl)piperidine (WO9806720) (900 mg) dissolved in tetrahydrofuran (16 ml) at −78° C., and the mixture was stirred for 1 hour. Methyl chlorocarbonate (377 μl) was added to the reaction mixture to heat the mixture to room temperature in 1 hour. Diethyl ether (30 ml) and a saturated aqueous A solution (50 ml) of ammonium chloride were added to the reaction mixture to separate an organic layer. The organic layer was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (hexane:ethyl acetate=4:1) to obtain the title compound (634 mg) as a colorless transparent oil.

reactant | n-Butyllithium | 1.57N, 3.11 ml | C(CCC)[Li]
reactant | 1-(tert-butoxycarbonyl)-4-(2,2-dibromovinyl)piperidine | 900 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C=C(Br)Br | C12H19Br2NO2
reactant | Methyl chlorocarbonate | 377 μl | C(OC)(=O)Cl | C2H3ClO2
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
solvent | Diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 1-(tert-Butoxycarbonyl)-4-(methoxycarbonylethynyl)-piperidine | 634 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C#CC(=O)OC | C14H21NO4
